US07456200B2
(S)-[1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-2-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-ethyl]-dimethyl-amine
Sodium cyanoborohydride (0.1 mL, 1M in THF) was added to a solution of (S)-1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-2-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-ethylamine (30 mg) in methanol (0.8 mL) containing 96% formic acid (0.1 mL) and 37% formalin solution (0.1 mL). The residue was quenched with water and extracted with ethyl acetate. The organic layer was dried with sodium sulfate and concentrated. Purification was performed by flash column silica gel chromatography with 3% (2 M ammnonia methanol) in dichloromethane to give 22 mg of the title compound. 1H NMR (CDCl3): d ppm 8.76 (d, 2H), 8.06 (s, 1H), 7.97 (d, 1H), 7.73 (d, 2H), 7.47 (d, 1H), 7.45 (t, 1H), 5.00 (dd, 1H), 3.76 (dd, 1H), 3.51 (dd, 1H), 3.42 (m, 1H), 2.45 (br s, 6H), 1.26 (m, 2H), 0.88 (m, 1H), 0.79 (m, 1H)

reactant | Sodium cyanoborohydride | 1M, 0.1 mL | C(#N)[BH3-].[Na+]
reactant | (S)-1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-2-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-ethylamine | 30 mg | ClC=1C=C(C=CC1)C1=NOC(=N1)[C@H](CC1=NN=C(N1C1CC1)C1=CC=NC=C1)N | C20H18ClN7O
reactant | formic acid | 0.1 mL | C(=O)O | CH2O2
reactant | formalin | 0.1 mL | C=O | CH2O
solvent | methanol | 0.8 mL | CO | CH4O
product | (S)-[1-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-2-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-ethyl]-dimethyl-amine | 22 mg | ClC=1C=C(C=CC1)C1=NOC(=N1)[C@H](CC1=NN=C(N1C1CC1)C1=CC=NC=C1)N(C)C | C22H22ClN7O
